US04354972
Methyl lithocholate is dissolved in methylene chloride, and β-methoxyethoxymethyl chloride and diisopropylethylamine are added. The mixture is stirred for four hours, ether added and washed with water. After drying the solvents are evaporated, the residue dissolved in toluene and the 24-ester group reduced to the 24-alcohol group with Vitride. The 24-alcohol then is oxidized with chromium trioxide-pyridine and the 3α-(β-methoxyethoxymethoxy)-5β-cholane-24-aldehyde obtained.

reactant | Methyl lithocholate | C[C@H](CCC(=O)OC)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2CC[C@H]4[C@@]3(CC[C@H](C4)O)C)C | C25H42O3
reactant | β-methoxyethoxymethyl chloride | COCCOCCl | C4H9ClO2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ether | CCOCC | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3α-(β-methoxyethoxymethoxy)-5β-cholane-24-aldehyde | COCCOCO[C@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC=O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C28H48O4
